US06043254
(b) 3-{(Z)-1-[4-((2,4-dioxo-thiazolidin-5-yl)methyl)anilino]-1-phenylmethylidene}-5-nitro-2-indolinone
Prepared by reacting 1-acetyl-3-{1-ethoxy-1-phenylmethylidene}-5-nitro-2-indolinone with 1.2 equivalents of 5-(4-amino-benzyl)-thiazolidin-2,4-dione in DMF (120° C., 1 hour), subsequent treatment with 6.7 equivalents of piperidine (20° C., 1 hour), evaporation in vacuo and trituration with EtOH/water (1:1).

reactant | 1-acetyl-3-{1-ethoxy-1-phenylmethylidene}-5-nitro-2-indolinone | C(C)(=O)N1C(C(C2=CC(=CC=C12)[N+](=O)[O-])=C(C1=CC=CC=C1)OCC)=O | C19H16N2O5
reactant | 5-(4-amino-benzyl)-thiazolidin-2,4-dione | 1.2 equivalents | NC1=CC=C(CC2C(NC(S2)=O)=O)C=C1 | C10H10N2O2S
reactant | piperidine | 6.7 equivalents | N1CCCCC1 | C5H11N
reactant | EtOH water | CCO.O
solvent | DMF | CN(C)C=O | C3H7NO
product | 3-{(Z)-1-[4-((2,4-dioxo-thiazolidin-5-yl)methyl)anilino]-1-phenylmethylidene}-5-nitro-2-indolinone | O=C1SC(C(N1)=O)CC1=CC=C(N\C(\C2=CC=CC=C2)=C\2/C(NC3=CC=C(C=C23)[N+](=O)[O-])=O)C=C1 | C25H18N4O5S
